US04447361
6-(4-Fluorophenyl)-N,N-dimethyl-11H-pyrido[2,3-b][1,4]benzodiazepine-11-propanamine hydrochloride hemihydrate
To a stirred suspension of 3.6 g (0.075 mole) of sodium hydride (in mineral oil) in 250 ml of anhydrous dimethylformamide was added under nitrogen atmosphere in portions 8.7 g (0.03 mole) of 6-(4-fluorophenyl)-11H-pyrido[2,3-b][1,4]benzodiazepine. The mixture was stirred for 30 min at room temperature. The temperature was raised to 80° C. for 3.5 hr. and thereafter allowed to cool to 45° C. To the reaction mixture was added dropwise a solution of 5.2 g (0.033 mole) of 3-dimethylaminopropyl chloride hydrochloride in 30 ml of dimethylformamide. After stirring overnight at room temperature, thin layer chromatography indicated the presence of starting material. Additional sodium hydride, 3.6 g (0.075 mole) was added and after 45 min stirring, the reaction mixture was heated to 50°-60° C. for 1/2 hr. A green color developed with formation of gas. The mixture was stirred at room temperature for 3 hr. A solution of 5.2 g (0.033 mole) of 3-dimethylaminopropyl chloride in 30 ml of dimethylformamide was added dropwise. (About half way through the addition, a green color developed and addition was halted temporarily for about an hour). The reaction mixture was stirred overnight at room temperature. To the mixture was added 30 ml of water while cooling. After gas evolution had stopped the mixture was filtered and concentrated in a rotary evaporator. The residue was partitioned between diethyl ether and water and the ether layer extracted with dilute aqueous hydrochloric acid solution. The aqueous layer was filtered after 11/2 hr to remove solid. The filtrate was basified with sodium hydroxide pellets and extracted with methylene chloride. The extract was dried and concentrated. The residue was divided into two equal parts and purified by dry column chromatography on two 20"×11/2" columns of silica gel which had been deactivated by the development solvent (10% methanol, 1% concentrated ammonium hydroxide, 89% methylene chloride). The center portion of the column was cut out and extracted with the development solvent. The combined extracts were concentrated under reduced pressure and the residue dissolved in ethyl acetate-ethanol mixture and acidified with concentrated hydrochloric acid. The hydrochloric acid salt was recrystallized from ethanol-ethyl acetate mixture. The solid obtained by filtration was dried at 99° C. for 48 hr to give the title compound as the monohydrochloride hemihydrate, m.p. 120°-123° C.

reactant | sodium hydride | 0.075 mole, 3.6 g | [H-].[Na+]
reactant | 6-(4-fluorophenyl)-11H-pyrido[2,3-b][1,4]benzodiazepine | 0.03 mole, 8.7 g | FC1=CC=C(C=C1)C1=NC2=C(NC3=C1C=CC=C3)N=CC=C2 | C18H12FN3
reactant | 3-dimethylaminopropyl chloride hydrochloride | 0.033 mole, 5.2 g | Cl.CN(CCCCl)C
reactant | 3-dimethylaminopropyl chloride | 0.033 mole, 5.2 g | CN(CCCCl)C | C5H12ClN
reactant | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | 30 ml | O | H2O
product | 6-(4-Fluorophenyl)-N,N-dimethyl-11H-pyrido[2,3-b][1,4]benzodiazepine-11-propanamine hydrochloride hemihydrate | O.Cl.FC1=CC=C(C=C1)C1=NC2=C(N(C3=C1C=CC=C3)CCCN(C)C)N=CC=C2.FC2=CC=C(C=C2)C2=NC3=C(N(C1=C2C=CC=C1)CCCN(C)C)N=CC=C3.Cl | InChI=1S/2C23H23FN4.2ClH.H2O/c2*1-27(2)15-6-16-28-21-9-4-3-7-19(21)22(17-10-12-18(24)13-11-17)26-20-8-5-14-25-23(20)28;;;/h2*3-5,7-14H,6,15-16H2,1-2H3;2*1H;1H2
